US04045560
A mixture of 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene-11-one (280 mg), hydrazine (0.2 ml) and sodium hydroxide in triethyleneglycol was stirred at 150° C. for 30 minutes and at 190° - 200° C. for 2.5 hours. The reaction mixture was diluted with water and extracted with benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified over silica gel chromatography to give 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene, M.P. 42° - 43° C.

reactant | 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene-11-one | 280 mg | C(C=C)C12C3=CC=CC=C3C(C=3C=CC=CC13)C(C2)=O | C19H16O
reactant | hydrazine | 0.2 ml | NN | H4N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | triethyleneglycol | C(COCCOCCO)O | C6H14O4
solvent | water | O | H2O
product | 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene | C(C=C)C12C3=CC=CC=C3C(C=3C=CC=CC13)CC2 | C19H18
